US07544826B2
37.8 g (240 mmol) of hexamethyldisilazane were added to a mixture of 7.8 g (70 mmol) of 2-methylcyclopentane-1,3-dione and 0.29 g (4.4 mmol) of imidazole and the mixture was subsequently heated at 120° C. for 2 hours. The mixture was allowed to cool to room temperature while stirring and all volatile components were distilled off. Distillation at 60-63° C. and 3×10−3 mbar gave 12.7 g (68 mmol, 98%) of 2-methyl-3-(trimethylsilyloxy)cyclopent-2-enone as a colorless liquid.

reactant | hexamethyldisilazane | 240 mmol, 37.8 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 2-methylcyclopentane-1,3-dione | 70 mmol, 7.8 g | CC1C(CCC1=O)=O | C6H8O2
catalyst | imidazole | 4.4 mmol, 0.29 g | N1C=NC=C1 | C3H4N2
product | 2-methyl-3-(trimethylsilyloxy)cyclopent-2-enone | 68 mmol, 12.7 g, 98% | CC=1C(CCC1O[Si](C)(C)C)=O | C9H16O2Si
